US04365066
To a suspension of 46.5 g of 4-(n-hexadecylamino)benzoic acid in 300 ml of pyridine was dropwise added trifluoroacetic anhydride with stirring under ice-cooling in the course of 15 minutes. After the mixture was further stirred at room temperature for 90 minutes, the mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was successively washed with diluted hydrochloric acid and water, dried over anhydrous sodium sulfate and concentrated. To the residual oily N-trifluoroacetyl derivative, without purification, were added 100 ml of thionyl chloride and 300 ml of benzene. The whole mixture was refluxed under heating for 110 minutes and completely concentrated. The residue was reacted and treated with 29.2 g of diethyl L-aspartate in the same manner as described in reference example to give 73 g of diethyl N-[4-(N-trifluoroacetyl-N-n-hexadecylamino)benzoyl]-L-aspartate. To a solution of the oil in 500 ml of toluene was added 40 ml of phosphorus oxychloride. After the mixture was refluxed under heating for 120 minutes, the resulting solution was poured into a mixture of ice and potassium carbonate and then extracted with benzene. The benzene layer was further washed with diluted aqueous potassium carbonate solution and aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained, without purification, was dissolved in 300 ml of methanol. To the solution was added a solution of 14 g of sodium hydroxide in 80 ml of water at room temperature and the whole solution was stirred for 60 minutes. The resulting solution was concentrated under reduced pressure. To the residue was added cold water and the precipitated solid was filtered off. The precipitate was dissolved into ethanol under heating, and active carbon was added to the solution. The mixture was filtered to give 25.9 g of the title compound, m.p. 188.5°-198.5° C.

reactant | 4-(n-hexadecylamino)benzoic acid | 46.5 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | diethyl L-aspartate | 29.2 g | N[C@@H](CC(=O)OCC)C(=O)OCC | C8H15NO4
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | diethyl N-[4-(N-trifluoroacetyl-N-n-hexadecylamino)benzoyl]-L-aspartate | 73 g | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)N[C@@H](CC(=O)OCC)C(=O)OCC)C=C1)(F)F | C33H51F3N2O6
